US08557741B2
2.20 g (9.9 mmol) of 2-(benzyloxy)-N,N-diethylacetamide were dissolved in 45 ml of ethyl acetate, and 200 mg of Pd/C (10%) were added. The reaction mixture was stirred under an atmosphere of hydrogen for 24 hours and then filtered through kieselguhr. The filtrate was evaporated to dryness, and N,N-diethyl-2-hydroxyacetamide was obtained as a colorless residue.

reactant | 2-(benzyloxy)-N,N-diethylacetamide | 9.9 mmol, 2.20 g | C(C1=CC=CC=C1)OCC(=O)N(CC)CC | C13H19NO2
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | N,N-diethyl-2-hydroxyacetamide | C(C)N(C(CO)=O)CC | C6H13NO2
